US05393790
Under nitrogen, 17.7 g (128 mmol) of 4-fluoroacetophenone (Aldrich) and 20.7 mL (192 mmol) of triethylamine at ambient temperature was treated with 24.4 mL (192.3 mmol) of chlorotrimethylsilane and allowed to stir of 20 minutes prior to the slow addition of a suspension of 30 g (200 mmol) of sodium iodode in 200 mL of acetonitrile. The extracts were combined, dried (K2CO3), and concentrated in vacuo to give 27 g of crude 1-fluoro-4-[1[(trimethylsilyl)oxy]ethenyl]benzene as an oil: NMR (CDCl3) δ 0.28 (s, 9H), 4.41 (d, J=2 Hz, 1H), 4.84 (d, J=2 Hz, 1H), 7.00 (d, J=8 Hz, 2H), 7.53 -7.60 (m, 2H).

reactant | 4-fluoroacetophenone | 128 mmol, 17.7 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | triethylamine | 192 mmol, 20.7 mL | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 192.3 mmol, 24.4 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | sodium | 200 mmol, 30 g | [Na] | Na
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-fluoro-4-[1[(trimethylsilyl)oxy]ethenyl]benzene | 27 g | FC1=CC=C(C=C1)C(=C)O[Si](C)(C)C | C11H15FOSi
